US04410539
A solution of 3-bromo-6-hydroxymethyl-2-methylbenzo[b]thiophene (2.11 g.) in dry ether (150 ml.) was added dropwise over 20 minutes to a stirred solution of n-butyl lithium (25 ml. of 1.5 M solution in hexane) in dry ether (150 ml.) at -70° C. under an atmosphere of dry nitrogen. The mixture was stirred at -70° C. for 2 hours and then poured onto a mixture of crushed solid carbon dioxide and ether. When all the carbon dioxide had evaporated the mixture was shaken with water and the aqueous layer was separated and acidified with concentrated hydrochloric acid. The solid was filtered off, washed well with water and dried to give 6-hydroxymethyl-2-methylbenzo[b]-thiophene-3-carboxylic acid (1.26 g.), m.p. 195°-196° C., raised to 196°-197° C. on crystallization from ethanol/water.

reactant | 3-bromo-6-hydroxymethyl-2-methylbenzo[b]thiophene | 2.11 g | BrC=1C2=C(SC1C)C=C(C=C2)CO | C10H9BrOS
reactant | n-butyl lithium | 1.5 M, 25 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 6-hydroxymethyl-2-methylbenzo[b]-thiophene-3-carboxylic acid | 1.26 g | OCC=1C=CC2=C(SC(=C2C(=O)O)C)C1 | C11H10O3S
